US06451814B1
4-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidine-1-carboxylic Acid 3,5-difluoro-benzylamide
4-[4-(2-Aminoethyl)anilino]-N-(3,5-difluorobenzyl)-1-piperidinecarboxamide formamide (0.33 g, 0.76 mmol) was reacted with tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenyl-silane (0.276 g, 0.68 mmol) according to Procedure G (eluant: 20:1 chloroform-methanol) to give the title compound (0.165 g, 0.20 mmol).

reactant | 4-[4-(2-Aminoethyl)anilino]-N-(3,5-difluorobenzyl)-1-piperidinecarboxamide formamide | 0.76 mmol, 0.33 g | C(=O)N.NCCC1=CC=C(NC2CCN(CC2)C(=O)NCC2=CC(=CC(=C2)F)F)C=C1
reactant | tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenyl-silane | 0.68 mmol, 0.276 g | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)OC1=CC=C(C=C1)OCC1OC1 | C25H28O3Si
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | 4-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidine-1-carboxylic Acid 3,5-difluoro-benzylamide | 0.20 mmol, 0.165 g | FC=1C=C(CNC(=O)N2CCC(CC2)NC2=CC=C(C=C2)CCNC[C@@H](COC2=CC=C(C=C2)O)O)C=C(C1)F | C30H36F2N4O4
